US05677439
Preparation of 5'-iodomethyl-5'-deoxy-3'-O-t-butyldimethylsilyl thymidine
To a solution of 3'-O-t-butyldimethylsilyl-5'-deoxy-5'-hydroxymethyl thymidine prepared according to the method of Example 5 (0.3 g, 0.9 mmol) in dry acetonitrile (5 ml) and ether (3.4 ml) were added 3 eq of triphenyl phosphine (0.7 g, 2.8 mmol), 4 eq of imidazole (0.3 g, 3.7 mmol) and 2.2 eq of iodine (0.5 g, 2.8 mmol). The reaction mixture was stirred for 45 min and the solvent was evaporated. Ethyl acetate was added to the residue and the residue washed with water, saturated sodium chloride and dried with sodium sulfate. The title compound was purified by flash chromatography using a 30-50% gradient of ethyl acetate in hexane. The yield was 90%.

reactant | 3'-O-t-butyldimethylsilyl-5'-deoxy-5'-hydroxymethyl thymidine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CCO)N1C(=O)NC(=O)C(C)=C1 | C17H30N2O5Si
reactant | triphenyl phosphine | 2.8 mmol, 0.7 g, 3 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 3.7 mmol, 0.3 g, 4 eq | N1C=NC=C1 | C3H4N2
reactant | iodine | 2.8 mmol, 0.5 g, 2.2 eq | II | I2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ether | 3.4 ml | CCOCC | C4H10O
product | 5'-iodomethyl-5'-deoxy-3'-O-t-butyldimethylsilyl thymidine | yield was 90% | ICC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O[Si](C)(C)C(C)(C)C | C17H29IN2O4Si
